US07138413B1
N-(4-Chlorobenzyl)-N′-cyclohexyl-3-piperidinopropyl isothiourea
Cyclohexylamine (10 mmol) was added dropwise to 4-chlorobenzylisothio-cyanate (10 mmol) dissolved in 20 ml of dry ether. The solution was stirred for 2 hours at room temperature. The precipitated product was filtered off and crystallized from ethyl acetate. 3-Piperidinopropyl chloride hydrochloride (3 mmol), the product (3 mmol), and ca-talytic amounts of potassium iodide were refluxed in ethanol for 6 days. Sub-sequently, ethanol was evaporated, and the residue was purified by column chromato-graphy (eluent: methylene chloride/methanol (95/5)). After evaporation of the solvent the product was crystallized with hydrochloric acid from diethyl ether/ethanol.

reactant | Cyclohexylamine | 10 mmol | C1(CCCCC1)N | C6H13N
reactant | 4-chlorobenzylisothio-cyanate | 10 mmol | ClC1=CC=C(CN=C=S)C=C1 | C8H6ClNS
reactant | 3-Piperidinopropyl chloride hydrochloride | 3 mmol | Cl.N1(CCCCC1)CCCCl
reactant | potassium iodide | [I-].[K+]
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | N-(4-Chlorobenzyl)-N′-cyclohexyl-3-piperidinopropyl isothiourea | ClC1=CC=C(CN(C(S)=NC2CCCCC2)CCCN2CCCCC2)C=C1 | C22H34ClN3S
